US05670492
2-Methoxy-5-iodopyrimidine (1.736 g, 7.36 mmol) was dissolved in 36 ml of N,N-dimethylformamide, and 99 mg of palladium acetate, 2.54 g (18.4 mmol) of potassium carbonate, 2.05 g (7.36 mmol) of tetrabutylammonium chloride and 3.168 g (36.8 mmol) of methyl acrylate were added thereto. The mixture was stirred in an argon atmosphere at 80° C. for 1 hour. Water was added to the reaction mixture, and the solution was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained crude product was purified by silica-gel column chromatography (250 ml of silica gel, hexane:ethyl acetate=2:1 to 1:1) to give 1.26 g (6.49 mmol) of methyl (E)-3-(2-methoxy-5-pyrimidinyl)acrylate (yield: 88%).

reactant | 2-Methoxy-5-iodopyrimidine | 7.36 mmol, 1.736 g | COC1=NC=C(C=N1)I | C5H5IN2O
reactant | potassium carbonate | 18.4 mmol, 2.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 36.8 mmol, 3.168 g | C(C=C)(=O)OC | C4H6O2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium chloride | 7.36 mmol, 2.05 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 99 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl (E)-3-(2-methoxy-5-pyrimidinyl)acrylate | 6.49 mmol, 1.26 g, yield: 88% | COC1=NC=C(C=N1)/C=C/C(=O)OC | C9H10N2O3
